US03954754
EXAMPLE 75: 5,6,7,8,9,10,11,12,13,14-Decahydro-3-isopropylidenehydrazinocyclododeca[c]pyridazine
1.5 g of 3-hydrazino-5,6,7,8,9,10,11,12,13,14-decahydrocyclododeca[c]pyridazine fumarate are heated in 20 cc of acetone, to which a few drops of concentrated aqueous ammonia solution have been added, on a water bath for 1 hour. The mixture is cooled with ice, and the resulting crude title compound is divided between 5 cc of concentrated aqueous caustic soda solution and 20 cc of chloroform. The chloroform phase is concentrated, whereby a yellowish foam results, from which the title compound is obtained by recrystallization from absolute ethanol. M.P. 165°-166° (decomp.).

reactant | 3-hydrazino-5,6,7,8,9,10,11,12,13,14-decahydrocyclododeca[c]pyridazine fumarate | 1.5 g | C(\C=C\C(=O)O)(=O)O.N(N)C1=CC2=C(N=N1)CCCCCCCCCC2
reactant | caustic soda | 5 cc | [OH-].[Na+]
reactant | chloroform | 20 cc | C(Cl)(Cl)Cl | CHCl3
solvent | acetone | 20 cc | CC(=O)C | C3H6O
catalyst | ammonia | a few drops | N | H3N
product | 5,6,7,8,9,10,11,12,13,14-Decahydro-3-isopropylidenehydrazinocyclododeca[c]pyridazine | C(C)(C)=NNC1=CC2=C(N=N1)CCCCCCCCCC2 | C17H28N4
